US09259426B2
Synthesis of 6-bromo-4-hydroxy-quinazoline
A suspension of 2-amino-5-bromobenzoic acid (5.4 g, 25 mmol) in formamide (40 ml) was heated at 165° C. for 6 hours. After cooling to room temperature, water (100 ml) was added to the reaction mixture. The precipitate was collected by filtration, washed with water and dried over P2O5, yielding the title compound as a white solid (5.3 g, yield: 95%) which was characterized by its mass spectrum as follows: MS (m/z): 225 ([M+H]+, 100).

reactant | 2-amino-5-bromobenzoic acid | 25 mmol, 5.4 g | NC1=C(C(=O)O)C=C(C=C1)Br | C7H6BrNO2
reactant | water | 100 ml | O | H2O
reactant | formamide | 40 ml | C(=O)N | CH3NO
product | 6-bromo-4-hydroxy-quinazoline | 5.3 g, yield: 95% | BrC=1C=C2C(=NC=NC2=CC1)O | C8H5BrN2O
